US06395734B1
3-[5-(6-Methoxy-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4-methyl-1H-pyrrol-3-yl]-propionic acid
4-(2-Carboxyethyl)-2-formyl-3-methylpyrrole (190 mg), 163 mg of 6-methoxy-2-oxindole, and 2 drops of piperidine in 2 mL of ethanol were heated to 90° C. for 3 hours. The reaction mixture was cooled and concentrated. The residue was suspended in 6N aqueous hydrochloric acid. The precipitate was filtered, washed with water to pH 6 and dried in a vacuum oven to give 140 mg of the title compound (43%) as a brown solid.

reactant | 4-(2-Carboxyethyl)-2-formyl-3-methylpyrrole | 190 mg | C(=O)(O)CCC=1C(=C(NC1)C=O)C | C9H11NO3
reactant | 6-methoxy-2-oxindole | 163 mg | COC1=CC=C2CC(NC2=C1)=O | C9H9NO2
catalyst | piperidine | 2 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-[5-(6-Methoxy-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4-methyl-1H-pyrrol-3-yl]-propionic acid | 140 mg, 43% | COC1=CC=C2C(C(NC2=C1)=O)=CC1=C(C(=CN1)CCC(=O)O)C | C18H18N2O4
